### PR TITLE
Fix explanation for proof by rewrite

### PR DESCRIPTION
**Pull request by KihongHeo**
- Fixed incorrect explanation
- More discussion on "proof by rw" is needed. Let me add comments below.

### CODE REVIEW

**Review by dsainati1 — APPROVED** [review]

File: LF/Lists.lean
Comment (KihongHeo) [inline LF/Lists.lean:558]: In this file, we have two different styles of proofs. 
Here we use `rw`-based ones, 
```lean
example : count 1 (add 1 [1, 4, 1]) = 3 := by
  dsimp [add]
  rw [count_cons_same, count_cons_same, count_cons_diff, count_cons_same, count_nil] <;> dsimp
```

but other parts use `unseal` + `rfl` styles like
```lean
unseal count
unseal remove_one
example : count 5 (remove_one 5 [2, 1, 5, 4, 1]) = 0 := by rfl
```
 I think it would be better to make it consistent?

Comment (KihongHeo) [reply LF/Lists.lean:558]: I think the former better aligns with our educational goals. However, I’m not sure whether writing it in such a verbose way is idiomatic Lean?
